US09260441B2
Step B: 4-Methyl-N-[(3R)-3-piperidyl]pyridin-2-amine dihydrochloride
tert-Butyl (3R)-3-[(4-methyl-2-pyridyl)amino]piperidine-1-carboxylate (271 mg, 0.93 mmol) was dissolved in methanol (1 ml). Hydrochloric acid (4N in dioxane, 4.65 ml, 18.6 mmol) was added and the mixture was stirred at room temperature for three hours. The mixture was concentrated under reduced pressure, the residue was treated twice with diethylether and separated by decantation, dissolved in methanol and evaporated to dryness to yield 246 mg (quantitative) MS (ESI) m/z=192.2 [M+1]+.

reactant | tert-Butyl (3R)-3-[(4-methyl-2-pyridyl)amino]piperidine-1-carboxylate | 0.93 mmol, 271 mg | CC1=CC(=NC=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
reactant | Hydrochloric acid | 18.6 mmol, 4N, 4.65 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 4-Methyl-N-[(3R)-3-piperidyl]pyridin-2-amine dihydrochloride | Cl.Cl.CC1=CC(=NC=C1)N[C@H]1CNCCC1 | InChI=1S/C11H17N3.2ClH/c1-9-4-6-13-11(7-9)14-10-3-2-5-12-8-10;;/h4,6-7,10,12H,2-3,5,8H2,1H3,(H,13,14);2*1H/t10-;;/m1../s1
